US04558043
A mixture of 96.2 g (0.46 mole) of 1-(4-methyl-3-nitrophenoxy)-2-propanone, 10 g of 5% palladium on carbon and 960 ml of dioxane is hydrogenated for 6 hours at room temperature. The catalyst is subsequently filtered off and the filtrate is concentrated by evaporation in vacuo. The resulting residue is taken up in 2.5 liters of ethanol, 400 ml of concentrated hydrochloric acid are added and the whole is boiled under reflux for 30 hours. The ethanol is removed in vacuo and the residue is diluted with ice-water, rendered alkaline with 6N sodium hydroxide solution and extracted with ether. The crude product obtained after drying and concentration by evaporation of the organic phase is chromatographed over silica gel with methylene chloride/acetone. Recrystallisation of the pure fractions from petroleum ether yields 6-amino-3,5-dimethylbenzofuran having a melting point of 64°-65°.

reactant | 1-(4-methyl-3-nitrophenoxy)-2-propanone | 0.46 mole, 96.2 g | CC1=C(C=C(OCC(C)=O)C=C1)[N+](=O)[O-] | C10H11NO4
catalyst | palladium on carbon | 10 g | [Pd] | Pd
solvent | dioxane | 960 ml | O1CCOCC1 | C4H8O2
product | 6-amino-3,5-dimethylbenzofuran | NC1=CC2=C(C(=CO2)C)C=C1C | C10H11NO
